US09193693B2
Step 2. 2-(4-(3-Chlorophenyl)piperidin-1-yl)-3-(4-fluorophenyl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 2-(4-(3-chlorophenyl)piperidin-1-yl)-3-(4-fluorophenyl)quinoxaline-6-carboxylate (137.2 mg, 0.28 mmol, 1.00 equiv, 98%) in methanol (20 mL). This was followed by the addition of a solution of sodium hydroxide (57.8 mg, 1.45 mmol, 5.00 equiv) in water (2 mL), which was added dropwise with stirring. The resulting solution was stirred for overnight at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrochloric acid. The resulting mixture was concentrated under vacuum. The resulting mixture was washed with methanol. This resulted in 43 mg (33%) of 2-(4-(3-chlorophenyl)piperidin-1-yl)-3-(4-fluorophenyl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 2-(4-(3-chlorophenyl)piperidin-1-yl)-3-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.28 mmol, 137.2 mg, 1.00 equiv | ClC=1C=C(C=CC1)C1CCN(CC1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)F)C(=O)OC | C27H23ClFN3O2
reactant | sodium hydroxide | 1.45 mmol, 57.8 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 2-(4-(3-Chlorophenyl)piperidin-1-yl)-3-(4-fluorophenyl)quinoxaline-6-carboxylic acid | ClC=1C=C(C=CC1)C1CCN(CC1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)F)C(=O)O | C26H21ClFN3O2
